US06331556B2
7-Methoxy-2-methoxymethylbenzofuran-4-carboxylic acid (2-methyl-2H-pyrazol-3-yl)-amide
Starting from 7-methoxy-2-methoxymethylbenzofuran-4-carboxylic acid (93 mg) and 2-methyl-2H-pyrazol-3-ylamine (40 mg). Purification by column chromatography on silica eluting with ethyl acetate afforded the title compound as a white solid (43 mg).

reactant | 7-methoxy-2-methoxymethylbenzofuran-4-carboxylic acid | 93 mg | COC=1C=CC(=C2C=C(OC21)COC)C(=O)O | C12H12O5
reactant | 2-methyl-2H-pyrazol-3-ylamine | 40 mg | CN1N=CC=C1N | C4H7N3
product | 7-Methoxy-2-methoxymethylbenzofuran-4-carboxylic acid (2-methyl-2H-pyrazol-3-yl)-amide | 43 mg | CN1N=CC=C1NC(=O)C=1C=CC(=C2C1C=C(O2)COC)OC | C16H17N3O4
